* sg13g2-lna -- supply-ramp startup / latch check of the Option-A
* bias-reference skeleton (issue #33 / DR-0003; the ramp convention is
* the committed sim/lna-bias-pvt one).
* Generated from sim/biasref-topology/testbench/tb_core_startup.spice.tmpl
* by sim/biasref-topology/run_biasref_sweep.sh -- do not edit a generated
* file directly, edit this template and re-run.
*
* Generated for: MOS_SECTION=mos_ff HBT_SECTION=hbt_bcs
* TEMP=125 C VDD=1.98 V
*
* WHY THIS EXISTS: unlike the committed mirror feed (a plain R3a branch
* from vdd -- deliberately feedforward, no degenerate state), the Option-A
* skeleton is a self-biased PTAT loop, and that loop's zero-current state
* is a genuine degenerate operating point (the classic bandgap startup
* surface). The seed leg (Rseed) is the committed-design answer: a
* 10 Meg pull-up on the plain-diode leg's node guarantees a nonzero
* bootstrap current. This deck demonstrates that numerically the same
* way sim/lna-bias-pvt/testbench/tb_lna_startup.spice.tmpl does for the
* committed family: VDD ramps 0 V -> target in 1 us (slow vs. any circuit
* pole), holds to 12 us, and the runner checks that the island current's
* last samples agree with each other (settled, not ringing) and match the
* same cell's op-value (no latch to a different stable state).
*
* Cells: the same three the committed 45-cell startup check uses --
* bcs/125 C/1.98 V, wcs/-40 C/1.62 V, typ/27 C/1.80 V.

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_bcs
.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_ff
.options temp=125 tnom=27

Vvdd vdd 0 pwl(0 0 1e-6 1.98 1.2e-5 1.98)
Vssa vss 0 dc 0

XMb nc_b nc_b vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XQb nc_b nc_a nc_e vss npn13G2 Nx=8
Rp  nc_e vss 3.4k
XMa nc_a nc_b vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XQa nc_a nc_a vss vss npn13G2 Nx=1
Rseed vdd nc_a 10meg
XMk bref nc_b vdd vdd sg13_hv_pmos w=210u l=1u ng=1 m=1
XQ3 bref bref vss vss npn13G2 Nx=1

.control
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
save @q.xq3.qnpn13g2[ic]
tran 5e-8 1.2e-5
let iq3v = @q.xq3.qnpn13g2[ic]
let n = length(iq3v) - 1
let s1 = iq3v[n]
let s2 = iq3v[n-10]
let s3 = iq3v[n-25]
wrdata /Users/rwalters/GitHub/sg13g2-lna/.loom/worktrees/issue-33/sim/biasref-topology/corners/20260921-173323-2aeafef/startup_bcs_125c_vdd1.98v.dat iq3v
echo "STARTUP iq3_end $&s1 iq3_s2 $&s2 iq3_s3 $&s3"
echo "BENCH_COMPLETE"
quit
.endc
.end
